US08609687B2
A solution of methyl 4-(8-(3-(trifluoromethyl)phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino)benzoate (1.03 g, 2.50 mmol, 1 equiv) in 2M aqueous sodium hydroxide (10 mL) and 1,4-dioxane (5 mL) was heated at 80-90° C. After 3 h, the solution was cooled to 0° C. and neutralized by the addition of 6M HCl until pH=4-5. The resulting solid was collected by filtration and rinsed sequentially with water, isopropanol, and hexanes to afford crude 4-(8-(3-(trifluoromethyl)phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)benzoic acid (1.0 g, HPLC purity: 89%). LCMS (ESI) m/z: 398.9; 1H NMR (400 MHz, DMSO-d6) δ: 12.45 (br s, 1 H), 10.22 (s, 1 H), 8.89 (d, J=6.8 Hz, 1 H), 8.65 (s, 1 H), 8.42 (d, J=6.9 Hz, 1 H), 8.03 (m, 1 H), 7.77-7.84 (m, 6 H), 7.21 (t, J=7.0 Hz, 1 H).

reactant | methyl 4-(8-(3-(trifluoromethyl)phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino)benzoate | 2.50 mmol, 1.03 g, 1 equiv | FC(C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C(=O)OC)C=C2)(F)F | C21H15F3N4O2
reactant | HCl | 6M | Cl | ClH
solvent | sodium hydroxide | 2M, 10 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(8-(3-(trifluoromethyl)phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)benzoic acid | 1.0 g | FC(C=1C=C(C=CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C(=O)O)C=C2)(F)F | C20H13F3N4O2
